### PR TITLE
[Merged by Bors] - feat(Analysis/SpecificLimits/Basic): add lemmas about limits of fractions

### PR DESCRIPTION
**Pull request by mariainesdff**
Used in #15373.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecificLimits/Basic.lean [hunk 1]
```diff
@@ -114,6 +114,46 @@ theorem tendsto_natCast_div_add_atTop {𝕜 : Type*} [DivisionRing 𝕜] [Topolo
...
+    (fun n => (s n : ℝ) / (u n : ℝ) * (u n : ℝ)) =ᶠ[atTop] fun n => (s n : ℝ) := by
+  simp only [EventuallyEq, eventually_atTop, ge_iff_le]
+  simp only [Filter.tendsto_atTop, eventually_atTop, ge_iff_le] at hu
+  obtain ⟨n, hn⟩ := hu 1
+  use n
+  intro m hm
+  rw [div_mul_cancel₀ (s m : ℝ) (cast_ne_zero.mpr (one_le_iff_ne_zero.mp (hn m hm)))]
+
+/-- If when `n` tends to `∞`, `u` tends to `∞` and `(s n : ℝ) / (u n : ℝ))` tends to a nonzero
+  constant, then `s` tends to `∞`. -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/SpecificLimits/Basic.lean:151]: This is proved for a positive constant, not a nonzero one

File: Mathlib/Analysis/SpecificLimits/Basic.lean [hunk 2]
```diff
@@ -114,6 +114,46 @@ theorem tendsto_natCast_div_add_atTop {𝕜 : Type*} [DivisionRing 𝕜] [Topolo
     intros
     simp_all only [comp_apply, map_inv₀, map_natCast]
 
+/-- If there exists real constants `b`and `B` such that for `n` big enough, `b ≤ f n ≤ B`, then
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/SpecificLimits/Basic.lean:117]:
```suggestion
/-- If there exist real constants `b` and `B` such that for `n` big enough, `b ≤ f n ≤ B`, then
```

File: Mathlib/Analysis/SpecificLimits/Basic.lean [hunk 3]
```diff
@@ -114,6 +114,46 @@ theorem tendsto_natCast_div_add_atTop {𝕜 : Type*} [DivisionRing 𝕜] [Topolo
...
+  `f n / (n : ℝ)` tends to `0` as `n` tends to infinity. -/
+theorem tendsto_bdd_div_atTop_nhds_zero_nat (f : ℕ → ℝ) (b : ℝ)
+    (hb : ∀ᶠ n : ℕ in atTop, b ≤ f n) (B : ℝ) (hB : ∀ᶠ n : ℕ in atTop, f n ≤ B) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/SpecificLimits/Basic.lean:120]: Should all these be explicit arguments?

Comment (mariainesdff) [reply Mathlib/Analysis/SpecificLimits/Basic.lean:120]: I have made `f`, `b` and `B` implicit.

File: Mathlib/Analysis/SpecificLimits/Basic.lean [hunk 4]
```diff
@@ -114,6 +114,46 @@ theorem tendsto_natCast_div_add_atTop {𝕜 : Type*} [DivisionRing 𝕜] [Topolo
...
+    Tendsto (fun n : ℕ => ((n % m : ℕ) : ℝ) / (n : ℝ)) atTop (𝓝 0) := by
+  apply tendsto_bdd_div_atTop_nhds_zero_nat
+    (Eventually.of_forall (fun _ ↦ cast_nonneg _)) (B := m)
+  apply Eventually.of_forall (fun n ↦ ?_)
+  simp only [cast_le, le_of_lt (mod_lt n hm)]
+
+/-- If `u` tends to `∞` as `n` tends to `∞`, then for `n` big enough
+  `((s n : ℝ) / (u n : ℝ)) * (u n : ℝ) = (s n : ℝ)` holds. -/
+theorem div_mul_eventually_cancel (s : ℕ → ℕ) {u : ℕ → ℕ} (hu : Tendsto u atTop atTop) :
+    (fun n => (s n : ℝ) / (u n : ℝ) * (u n : ℝ)) =ᶠ[atTop] fun n => (s n : ℝ) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecificLimits/Basic.lean:142]: There are several issues here:

1. This should be called: `Filter.EventuallyEq.div_mul_cancel`
2. It shouldn't be specialized to `atTop` or `ℕ`
3. It shouldn't be specialized to `ℝ` and make use of coercions.

Instead, it should be something like this:

```lean
theorem Filter.EventuallyEq.div_mul_cancel {α G : Type*} [GroupWithZero G] {f g : α → G}
    {l : Filter α} (hg : Tendsto g l (𝓟 {0}ᶜ)) : (fun x ↦ f x / g x * g x) =ᶠ[l] fun x ↦ f x := by
  filter_upwards [hg.le_comap <| preimage_mem_comap (m := g) (mem_principal_self {0}ᶜ)] with x hx
  aesop

theorem Filter.EventuallyEq.div_mul_cancel_atTop {α G : Type*} [LinearOrderedSemifield G]
    {f g : α → G} {l : Filter α} (hg : Tendsto g l atTop) :
    (fun x ↦ f x / g x * g x) =ᶠ[l] fun x ↦ f x :=
  div_mul_cancel <| hg.mono_right <| le_principal_iff.mpr <|
    mem_of_superset (Ioi_mem_atTop 0) <| by aesop
```

This doesn't *quite* get you what you need because of the coercions, but it's very close, and easily applied by using [tendsto_natCast_atTop_atTop](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/AtTopBot/Archimedean.html#tendsto_natCast_atTop_atTop).

Does that seem reasonable to you?

File: Mathlib/Analysis/SpecificLimits/Basic.lean [hunk 5]
```diff
@@ -114,6 +114,46 @@ theorem tendsto_natCast_div_add_atTop {𝕜 : Type*} [DivisionRing 𝕜] [Topolo
...
+  simp only [Filter.tendsto_atTop, eventually_atTop, ge_iff_le] at hu
+  obtain ⟨n, hn⟩ := hu 1
+  use n
+  intro m hm
+  rw [div_mul_cancel₀ (s m : ℝ) (cast_ne_zero.mpr (one_le_iff_ne_zero.mp (hn m hm)))]
+
+/-- If when `n` tends to `∞`, `u` tends to `∞` and `(s n : ℝ) / (u n : ℝ))` tends to a positive
+  constant, then `s` tends to `∞`. -/
+theorem Tendsto.num {s u : ℕ → ℕ} (hu : Tendsto u atTop atTop) {a : ℝ} (ha : 0 < a)
+    (hlim : Tendsto (fun n : ℕ => (s n : ℝ) / (u n : ℝ)) atTop (𝓝 a)) : Tendsto s atTop atTop :=
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecificLimits/Basic.lean:153]: This also seems too specialized. Certainly it shouldn't need functions from `ℕ → ℕ`. Can you try to generalize it more along the lines I specified for the previous one?

File: Mathlib/Analysis/SpecificLimits/Basic.lean (hunk 4 above)
Comment (mariainesdff) [reply Mathlib/Analysis/SpecificLimits/Basic.lean]: Thanks, I have replaced the previous lemma by these two.

File: Mathlib/Analysis/SpecificLimits/Basic.lean [hunk 6]
```diff
@@ -114,6 +114,42 @@ theorem tendsto_natCast_div_add_atTop {𝕜 : Type*} [DivisionRing 𝕜] [Topolo
...
+  `(f x / g x) * g x = f x` holds. -/
+theorem Filter.EventuallyEq.div_mul_cancel_atTop {α G : Type*} [LinearOrderedSemifield G]
+    {f g : α → G} {l : Filter α} (hg : Tendsto g l atTop) :
+    (fun x ↦ f x / g x * g x) =ᶠ[l] fun x ↦ f x :=
+  div_mul_cancel <| hg.mono_right <| le_principal_iff.mpr <|
+    mem_of_superset (Ioi_mem_atTop 0) <| by aesop
+
+/-- If when `x` tends to `∞`, `g` tends to `∞` and `f x / g x` tends to a positive
+  constant, then `f` tends to `∞`. -/
+theorem Tendsto.num {α G : Type*} [Preorder α] [LinearOrderedField G] [TopologicalSpace G]
```
Comment (fpvandoorn) [inline Mathlib/Analysis/SpecificLimits/Basic.lean:147]: Can the filter on the domain be generalized to an arbitary filter?
Can you turn this into an `iff` with `hg`?

File: Mathlib/Analysis/SpecificLimits/Basic.lean [hunk 7]
```diff
@@ -114,6 +114,42 @@ theorem tendsto_natCast_div_add_atTop {𝕜 : Type*} [DivisionRing 𝕜] [Topolo
...
+    Tendsto (fun n : ℕ => ((n % m : ℕ) : ℝ) / (n : ℝ)) atTop (𝓝 0) :=
+  tendsto_bdd_div_atTop_nhds_zero_nat (b := 0) (B := m) (by aesop) <|
+    .of_forall fun n ↦ by exact_mod_cast (mod_lt n hm).le
+
+theorem Filter.EventuallyEq.div_mul_cancel {α G : Type*} [GroupWithZero G] {f g : α → G}
+    {l : Filter α} (hg : Tendsto g l (𝓟 {0}ᶜ)) : (fun x ↦ f x / g x * g x) =ᶠ[l] fun x ↦ f x := by
+  filter_upwards [hg.le_comap <| preimage_mem_comap (m := g) (mem_principal_self {0}ᶜ)] with x hx
+  aesop
+
+/-- If `g` tends to `∞` as `x` tends to `∞`, then for `x` big enough
```
Comment (fpvandoorn) [inline Mathlib/Analysis/SpecificLimits/Basic.lean:137]:
```suggestion
/-- If `g` tends to `∞` , then eventually for all `x` we have
```
(or similar)

File: Mathlib/Analysis/SpecificLimits/Basic.lean [hunk 8]
```diff
@@ -114,6 +114,42 @@ theorem tendsto_natCast_div_add_atTop {𝕜 : Type*} [DivisionRing 𝕜] [Topolo
     intros
     simp_all only [comp_apply, map_inv₀, map_natCast]
 
+/-- If there exist real constants `b` and `B` such that for `n` big enough, `b ≤ f n ≤ B`, then
+  `f n / (n : ℝ)` tends to `0` as `n` tends to infinity. -/
+theorem tendsto_bdd_div_atTop_nhds_zero_nat {f : ℕ → ℝ} {b : ℝ}
+    (hb : ∀ᶠ n : ℕ in atTop, b ≤ f n) {B : ℝ} (hB : ∀ᶠ n : ℕ in atTop, f n ≤ B) :
```
[the remark this answers is not in the document]
Comment (fpvandoorn) [reply Mathlib/Analysis/SpecificLimits/Basic.lean:120]: You can take inspiration from `Filter.Tendsto.div_atTop` although your hypothesis on `f` is weaker (and probably your result should be moved there).

[the remark this answers is not in the document]
Comment (mariainesdff) [reply Mathlib/Analysis/SpecificLimits/Basic.lean:120]: Do you know if we have something like
```lean
theorem foo {α K : Type*} [Nonempty α] [SemilatticeSup α] [LinearOrderedField K] 
    [TopologicalSpace K] [OrderTopology K] {f g : α → K} {b : K}
    (hb : ∀ᶠ x in atTop, b ≤ f x) {B : K} (hB : ∀ᶠ x in atTop, f x ≤ B)
    (hg : Tendsto g atTop (𝓝 0)) :
    Tendsto (fun x ↦ f x * (g x)) atTop (𝓝 0)
```?
(I cannot find it).

File: Mathlib/Analysis/SpecificLimits/Basic.lean (hunk 6 above)
Comment (mariainesdff) [reply Mathlib/Analysis/SpecificLimits/Basic.lean]: I generalized the filter on the domain. For the `iff` version, I had to add a `[ContinuousInv K]` hypothesis.

**Comment by faenuccio** [comment]
A stupid remark: do you want "quotients" of "fractions" in the PR title?

File: Mathlib/Analysis/SpecificLimits/Basic.lean (hunk 8 above)
[the remark this answers is not in the document]
Comment (mariainesdff) [reply Mathlib/Analysis/SpecificLimits/Basic.lean]: I could not adapt that proof but I found an alternative one. I would appreciate help golfing it.

File: Mathlib/Topology/Algebra/Order/Field.lean [hunk 9]
```diff
@@ -141,6 +142,48 @@ theorem Filter.Tendsto.inv_tendsto_atTop (h : Tendsto f l atTop) : Tendsto f⁻
 theorem Filter.Tendsto.inv_tendsto_zero (h : Tendsto f l (𝓝[>] 0)) : Tendsto f⁻¹ l atTop :=
   tendsto_inv_zero_atTop.comp h
 
+/-- If there exist real constants `b` and `B` such that for `n` big enough, `b ≤ f n ≤ B`, then
+  `f n / (n : ℝ)` tends to `0` as `n` tends to infinity. -/
+theorem bdd_le_mul_tendsto_zero' [Nonempty α] [SemilatticeSup α] {f g : α → 𝕜} (C : 𝕜)
```
[the remark this answers is not in the document]
Comment (mariainesdff) [reply Mathlib/Topology/Algebra/Order/Field.lean:147]: I looked into generalizing, but I was not sure where this lemma would fit in, for two reasons:
- There is no `Mathlib.Topology.Algebra.Order.Ring` (which would be the natural guess).
- There are already several lemmas in `Mathlib.Topology.Algebra.Order.Field` which only use multiplication, which seems like an argument to also leave this lemma here (at least until the others are generalized, if possible).

I will look into the simplifications.

[the remark this answers is not in the document]
Comment (mariainesdff) [reply Mathlib/Topology/Algebra/Order/Field.lean:147]: The reason I did not use `squeeze_zero'` is that it is not imported in this file and I did not want to modify the imports.

[the remark this answers is not in the document]
Comment (fpvandoorn) [reply Mathlib/Topology/Algebra/Order/Field.lean]: I guess you can use `OrderedRing + ContinuousMul` or something? If there is no natural other file for this lemma (yet), feel free to leave it here.

I didn't realize about the imports for `squeeze_zero'`. I guess then you can still simplify a bit by using `0` as lower bound.

[the remark this answers is not in the document]
Comment (mariainesdff) [reply Mathlib/Topology/Algebra/Order/Field.lean]: I simplified as suggested.

**Comment by fpvandoorn** [comment]
I added a commit with a little bit of cleanup, this looks good now. (I see that many other results in this file are also about just multiplication, but stated for fields, so that is fine for this as well).

bors d+
